US06924375B2
S-2-Pyridyl 4-iodobenzothioate (6d).
Following the general procedure described above, reaction of 4-iodobenzoyl chloride (8.01 g, 30.0 mmol) with 2-mercaptopyridine (3.33 g, 30.0 mmol) in THF (60 mL) for 30 min at room temperature afforded pale yellow solid after precipitation (9.61 g, 94%): mp 127° C.; 1H NMR δ 7.30-7.38 (m, 1H), 7.70-7.76 (m, 3H), 7.77-7.83 (m, 1H), 7.84-7.89 (m, 2H), 8.64-8.71 (m, 1H); Anal. Calcd for C12H8INOS: C, 42.25; H, 2.36; N, 4.11. Found: C, 42.27; H, 2.38; N, 4.05.

reactant | 4-iodobenzoyl chloride | 30.0 mmol, 8.01 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | 2-mercaptopyridine | 30.0 mmol, 3.33 g | SC1=NC=CC=C1 | C5H5NS
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | S-2-Pyridyl 4-iodobenzothioate | IC1=CC=C(C(SC2=NC=CC=C2)=O)C=C1 | C12H8INOS
